### PR TITLE
fix(Data/Fintype/Perm): make the main logic of Equiv.instFintype irreducible

### PR DESCRIPTION
**Pull request by dwrensha**
Adds a new `irreducible_def` for the main branch of `Equiv.instFintype` to avoid errors about deep recursion.

This is an update of #15045 and #30560 according to the discussion in those PRs and in [this zulip thread](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/kernel.20deep.20recursion.20detected/near/454301820).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by robin-carlier** [comment]
!bench

File: Mathlib/Data/Fintype/Perm.lean [hunk 1]
```diff
@@ -137,12 +137,19 @@ theorem card_perms_of_finset : ∀ s : Finset α, #(permsOfFinset s) = (#s)! :=
 def fintypePerm [Fintype α] : Fintype (Perm α) :=
   ⟨permsOfFinset (@Finset.univ α _), by simp [mem_perms_of_finset_iff]⟩
 
+/--
+Helper function for `Equiv.instFintype`. We make this irreducible because otherwise
+it can easily produce large terms that trigger "deep recursion" errors.
+-/
+irreducible_def Equiv.instFintype_aux [Fintype α] [Fintype β]
```
Comment (robin-carlier) [inline Mathlib/Data/Fintype/Perm.lean]:
```suggestion
irreducible_def Equiv.instFintypeAux [Fintype α] [Fintype β]
```

File: Mathlib/Data/Fintype/Perm.lean [hunk 2]
```diff
@@ -137,12 +137,19 @@ theorem card_perms_of_finset : ∀ s : Finset α, #(permsOfFinset s) = (#s)! :=
...
+      @Fintype.ofEquiv _ (Perm α) fintypePerm
+        (equivCongr (Equiv.refl α) (eα.trans (Eq.recOn h eβ.symm)) : α ≃ α ≃ (α ≃ β))
+
 instance Equiv.instFintype [Fintype α] [Fintype β] : Fintype (α ≃ β) :=
-  if h : Fintype.card β = Fintype.card α then
-    Trunc.recOnSubsingleton (Fintype.truncEquivFin α) fun eα =>
-      Trunc.recOnSubsingleton (Fintype.truncEquivFin β) fun eβ =>
-        @Fintype.ofEquiv _ (Perm α) fintypePerm
-          (equivCongr (Equiv.refl α) (eα.trans (Eq.recOn h eβ.symm)) : α ≃ α ≃ (α ≃ β))
+  if h : Fintype.card β = Fintype.card α then Equiv.instFintype_aux h
```
Comment (robin-carlier) [inline Mathlib/Data/Fintype/Perm.lean]:
```suggestion
  if h : Fintype.card β = Fintype.card α then Equiv.instFintypeAux h
```

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean [hunk 3]
```diff
@@ -498,6 +498,6 @@ lemma S_mul_S_eq : (S : Matrix (Fin 2) (Fin 2) ℤ) * S = -1 := by
 
 lemma T_S_rel : S • S • S • T • S • T • S = T⁻¹ := by
   ext i j
-  fin_cases i <;> fin_cases j <;> rfl
+  fin_cases i <;> fin_cases j <;> simp [T, S]
```
Comment (robin-carlier) [inline Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:518]: I have to admit I am a little surprised by this.
Apparently, we lost the ability to write

```lean
theorem coe_T_inv : ↑(T⁻¹) = !![1, -1; 0, 1] := by decide
```

(this one was never `rfl` to begin with). I know Mathlib doesn’t care much about decidability or computability in general, but this is guaranteed to confuse people that they can’t call `decide` or `rfl` on something very simple and elementary like the inverse of a 2x2 matrix of integers.

Worse, it seems that wrapping the section in an `unseal Equiv.instFintype_aux` does not fix this, so that I don’t understand what magic commands should be invoked to at least locally restore the ability to do these computations.

@eric-wieser you suggested this change in #30560. Did you expect this kind of outcome? Do you think this is outweighted by the issue that this PR is trying to fix elsewhere about alternatization?

**Comment by robin-carlier** [comment]
(I benched this out of pure curiosity to see if it had an overall positive impact)

File: Mathlib/Data/Fintype/Perm.lean (hunk 1 above)
Comment (dwrensha) [reply Mathlib/Data/Fintype/Perm.lean]: Done.

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean (hunk 3 above)
Comment (dwrensha) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:518]: This also works:
```lean
simp +decide only [S, T, coe_inv, adjugate_fin_two_of]
```

Comment (dwrensha) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:518]: We could have it both ways. Some people are surprised that definitional reduction behaves badly for n = 8, and others would be surprised if it did not work for n = 2. So we could hard-code a transition point, say n = 6, like this:

```lean
def Equiv.instFintypeAux [Fintype α] [Fintype β]
    (h : Fintype.card β = Fintype.card α) : Fintype (α ≃ β) :=
  Trunc.recOnSubsingleton (Fintype.truncEquivFin α) fun eα =>
    Trunc.recOnSubsingleton (Fintype.truncEquivFin β) fun eβ =>
      @Fintype.ofEquiv _ (Perm α) fintypePerm
        (equivCongr (Equiv.refl α) (eα.trans (Eq.recOn h eβ.symm)) : α ≃ α ≃ (α ≃ β))

irreducible_def Equiv.instFintypeAuxIrreducible [Fintype α] [Fintype β]
    (h : Fintype.card β = Fintype.card α) : Fintype (α ≃ β) :=
  Equiv.instFintypeAux h

instance Equiv.instFintype [Fintype α] [Fintype β] : Fintype (α ≃ β) :=
  if h : Fintype.card β = Fintype.card α then
    if Fintype.card β < 6 then Equiv.instFintypeAux h
    else Equiv.instFintypeAuxIrreducible h
  else ⟨∅, fun x => False.elim (h (Fintype.card_eq.2 ⟨x.symm⟩))⟩

```

@eric-wieser @robin-carlier what would you think of this?

(I'm also curious to learn if there's an incantation to override `irreducible_def`.)

Comment (dwrensha) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:518]: My feeling is that requiring `simp` is not so bad. I get the impression that it's pretty common to want to avoid depending on Lean's definitional reduction.

Comment (robin-carlier) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:518]: I do not feel that hard-coding is a solution.

I also think that requiring `simp` is not so bad (and after rewriting using `adjugate_fin_two_of` we can get back something that we can `rfl` or `decide` as far as I understand), though being able to carry the proof by telling lean to "just compute the matrices and observe they’re equal" is nice.

My point was that given that this has the potential to spawn many "why is something so simple/explicit not computable?" questions, this should at least be carefully considered by maintainers before a decision (whichever it is) is made, and that one could easily miss in the diff of this PR that it also has this side-effect.

File: Mathlib/Data/Fintype/Perm.lean [hunk 4]
```diff
@@ -137,12 +137,19 @@ theorem card_perms_of_finset : ∀ s : Finset α, #(permsOfFinset s) = (#s)! :=
 def fintypePerm [Fintype α] : Fintype (Perm α) :=
   ⟨permsOfFinset (@Finset.univ α _), by simp [mem_perms_of_finset_iff]⟩
 
+/--
+Helper function for `Equiv.instFintype`. We make this irreducible because otherwise
+it can easily produce large terms that trigger "deep recursion" errors.
+-/
+irreducible_def Equiv.instFintypeAux [Fintype α] [Fintype β]
```
Comment (plp127) [inline Mathlib/Data/Fintype/Perm.lean:147]: Does this mean we can't prove stuff with `fin_cases` anymore?

File: Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean (hunk 3 above)
Comment (plp127) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:518]: > Worse, it seems that wrapping the section in an `unseal Equiv.instFintype_aux` does not fix this, so that I don’t understand what magic commands should be invoked to at least locally restore the ability to do these computations.

You can't `unseal` an `irreducible_def`, since it's an `opaque`, and opaque things can't be opened up. The `@[irreducible] def` is the kind you can `unseal`, since that's just a regular `def` but `@[irreducible]` (however I suspect the kernel won't be as reluctant to unfold this either).

Comment (robin-carlier) [reply Mathlib/LinearAlgebra/Matrix/SpecialLinearGroup.lean:518]: @plp127 The documentation of `irreducible_def` does not mention that it is an `opaque` or that it has the behavior you describe. You seem to have a better understanding than I do about the inner workings of `irreducible_def`, can you please make a PR that documents what you just explained?

File: Mathlib/Data/Matrix/Cartan.lean [hunk 5]
```diff
@@ -246,9 +246,11 @@ theorem G₂_off_diag_nonpos (i j : Fin 2) (h : i ≠ j) : G₂ i j ≤ 0 := by
 
 /-! ### Exceptional matrix determinants -/
 
-theorem G₂_det : G₂.det = 1 := by decide
+theorem G₂_det : G₂.det = 1 := by simp [G₂]
 
-theorem F₄_det : F₄.det = 1 := by decide
+theorem F₄_det : F₄.det = 1 := by
+  simp +decide [F₄, det, detRowAlternating, MultilinearMap.alternatization,
```
Comment (dwrensha) [inline Mathlib/Data/Matrix/Cartan.lean:252]: Ugh. I had hoped that something like `simp +decide [Equiv.instFintypeAux]` would work here, but naming all of these other defs seems to be necessary.

Comment (dwrensha) [reply Mathlib/Data/Matrix/Cartan.lean:252]: If there's no way to make this proof simpler, then this PR feels like less of a positive change to me.

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Cartan.lean:252]: Isn't `simp [det_fin_succ]` or similar the right way to prove this?
